US04361511
5 g (14.25 mmol) of 7-amino-6,8-dichloro-5-(o-fluorophenyl)-1,3-dihydro-1-methyl-2H-1,4-benzodiazepin-2-one are dissolved in 325 ml of 1,2-dichloroethane under reflux. The still hot solution is subsequently added dropwise while stirring and cooling with ice to 3.73 g (37.65 mmol) of phosgene in 50 ml of ice-cold 1,2-dichloroethane, the addition being carried out in such a manner that the temperature of the mixture does not exceed 20° C. The mixture is heated under reflux for 1 hour, 80 ml of dichloroethane are allowed to distill off and 80 ml of fresh dichloroethane are added thereto. While cooling with ice, argon is conducted directly into the solution until it has reached a temperature of 10° C. There is thus obtained a 1,2-dichloroethane solution of [6,8-dichloro-5-(o-fluorophenyl)-2,3-dihydro-1-methyl-2-oxo-1H-1,4-benzodiazepin-7-yl]isocyanate.

reactant | 7-amino-6,8-dichloro-5-(o-fluorophenyl)-1,3-dihydro-1-methyl-2H-1,4-benzodiazepin-2-one | 14.25 mmol, 5 g | NC=1C(=CC2=C(C(=NCC(N2C)=O)C2=C(C=CC=C2)F)C1Cl)Cl | C16H12Cl2FN3O
reactant | phosgene | 37.65 mmol, 3.73 g | C(=O)(Cl)Cl | CCl2O
reactant | dichloroethane | 80 ml | ClC(C)Cl | C2H4Cl2
solvent | 1,2-dichloroethane | 325 ml | ClCCCl | C2H4Cl2
product | [6,8-dichloro-5-(o-fluorophenyl)-2,3-dihydro-1-methyl-2-oxo-1H-1,4-benzodiazepin-7-yl]isocyanate | ClC1=C(C(=CC2=C1C(=NCC(N2C)=O)C2=C(C=CC=C2)F)Cl)N=C=O | C17H10Cl2FN3O2
